US05852017
h) 7-Amino-1-(carboxymethyl)-6-nitro-2,3(1H,4H)-quinoxalinedione
57.5 g (0.19 mol) of 7-acetamido-1-(ethoxycarbonylmethyl)-2,3(1H,4H)-quinoxalinedione were dissolved in 575 ml of concentrated sulfuric acid. The solution was cooled to 0° C., and 19.0 g (0.19 mol) of potassium nitrate were added a little at a time. The cooling was then removed and the mixture was stirred until the reaction was complete and was then poured into 2 l of ice-water and heated on a water bath for 2 h. The pH was then adjusted with aqueous ammonia solution to about 4-5, and the precipitate was filtered off with suction. The filtrate was concentrated under reduced pressure, and the residue was purified by chromatography on silica gel (mobile phase: methanol/tetrahydrofuran/water==5:4:1+2.5% glacial acetic acid). The resulting product was combined with the first precipitate to yield 36.9 g (70%) of product.

reactant | 7-acetamido-1-(ethoxycarbonylmethyl)-2,3(1H,4H)-quinoxalinedione | 0.19 mol, 57.5 g | C(C)(=O)NC1=CC=C2NC(C(N(C2=C1)CC(=O)OCC)=O)=O | C14H15N3O5
reactant | potassium nitrate | 0.19 mol, 19.0 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 575 ml | S(O)(O)(=O)=O | H2O4S
product | 7-Amino-1-(carboxymethyl)-6-nitro-2,3(1H,4H)-quinoxalinedione | 36.9 g, 70% | NC1=C(C=C2NC(C(N(C2=C1)CC(=O)O)=O)=O)[N+](=O)[O-] | C10H8N4O6
